US07834021B2
4-[(3R)-3-Aminopyrrolidin-1-yl]-1-(2-isopropyl-1,3-thiazol-5-yl)cyclohexanol.
The mixture of tert-butyl {(3R)-1-[4-hydroxy-4-(2-isopropyl-1,3-thiazol-5-yl)cyclohexyl]pyrrolidin-3-yl}carbamate (0.50 g, 1.22 mmol) in 4 N HCl/dioxane (10 mL) was stirred at room temperature for 1 hour. The solution was concentrated to give 0.397 g of the title compound as 2 HCl salt. MS (EI) calcd: (M+1)+=309.2; found: 310.2.

reactant | tert-butyl {(3R)-1-[4-hydroxy-4-(2-isopropyl-1,3-thiazol-5-yl)cyclohexyl]pyrrolidin-3-yl}carbamate | 1.22 mmol, 0.50 g | OC1(CCC(CC1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O)C1=CN=C(S1)C(C)C | C21H35N3O3S
solvent | HCl dioxane | 4 N, 10 mL | Cl.O1CCOCC1
product | 4-[(3R)-3-Aminopyrrolidin-1-yl]-1-(2-isopropyl-1,3-thiazol-5-yl)cyclohexanol | 0.397 g | N[C@H]1CN(CC1)C1CCC(CC1)(O)C1=CN=C(S1)C(C)C | C16H27N3OS
